US07122580B2
(2S)-(2-Amino-5-chloro-benzoylamino)-3-biphenyl-4-yl-propionic acid methyl ester was prepared following General Procedure A using 2-amino-5-chloro-benzoic acid (1.751 g, 98%, 10 mmol), (S)-2-amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride salt (2.95 g, 10 mmol), HBTU (4.55 g, 12 mmol) and DIEA (6.33 mL, 99%, 36 mmol) in DMF (60 mL). Purification by flash chromatography (ethyl acetate/hexanes 1:3, 1:2, 1:1.5) gave solid (3.48 g, 8.45 mmol, 85% yield).

reactant | 2-amino-5-chloro-benzoic acid | 10 mmol, 1.751 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | (S)-2-amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride salt | 10 mmol, 2.95 g | Cl.COC([C@H](CC1=CC=C(C=C1)Br)N)=O
reactant | HBTU | 12 mmol, 4.55 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 36 mmol, 6.33 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (2S)-(2-Amino-5-chloro-benzoylamino)-3-biphenyl-4-yl-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C23H21ClN2O3
